US04133956
1-(2,6-dichlorobenzoyl)-3-(3-trifluoromethylphenyl)urea
A solution of 0.912 grams of 2,6-dichlorobenzamide in 75 ml. of dry tetrahydrofuran was placed in a 3-necked, 250 ml. round bottomed flask. The solution was cooled to about -72° C. with a dry ice/acetone bath. To the mixture was added 1.8 ml. of n-butyllithium solution over a 5-minute period. The mixture was allowed to stand for 30 minutes at -75° C. to -70° C. A solution of 0.804 grams of 4-nitrophenyl chloroformate in 24 ml. of dry tetrahydrofuran was added over a period of 30 minutes at about -72° C. The mixture was allowed to stand an additional 30 minutes in the cold at which time it became colorless. The solution was warmed to -40° C. and held at that temperature for 2.75 hours. The mixture was cooled again to about -72° C. and a solution of 0.64 grams of 3-aminobenzotrifluoride in 25 ml. of dry tetrahydrofuran was added over 10 minutes. The solution was allowed to warm to room temperature and was then heated at 50° C. for 16 hours. The solvent was removed and the residue was dissolved in 10 ml. of ether. The solution was washed with 1 N sodium carbonate solution, dried over magnesium sulfate and the solvent again removed. The residue was triturated under ether to give 0.6 grams of a white crystalline solid melting above 200° C.

reactant | 2,6-dichlorobenzamide | 0.912 grams | ClC1=C(C(=O)N)C(=CC=C1)Cl | C7H5Cl2NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-nitrophenyl chloroformate | 0.804 grams | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 3-aminobenzotrifluoride | 0.64 grams | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(2,6-dichlorobenzoyl)-3-(3-trifluoromethylphenyl)urea | 0.6 grams | ClC1=C(C(=O)NC(=O)NC2=CC(=CC=C2)C(F)(F)F)C(=CC=C1)Cl | C15H9Cl2F3N2O2
